US06218431B1
Step A: 3-Amino-4-methyl-2-pentenoic acid, ethyl ester
To 100 g (0.63 mol) of ethyl isobutyryl acetate was added ammonium acetate (68.2 g, 0.89 mol), cyclohexane (230 mL) and isopropanol (74 mL). The mixture was heated at reflux under argon atmosphere with a Dean-Stark trap. After 2 hours, a second portion of ammonium acetate (14.6 g, 0.19 mol) was added to the reaction. The reaction was heated at reflux for 12 hours and then allowed to cool to room temperature. A total of ˜30 mL of water was collected in the Dean-Stark trap. An ice bath was used to cool the reaction to 10° C. and then ammonium hydroxide (63 mL) was added dropwise. The organic layer was separated, dried with sodium sulfate, filtered, and concentrated to yield a yellow oil. The crude product (90.9 g, 0.58 mol, 92%) was taken directly to the next step without any further purification.

reactant | ammonium acetate | 0.89 mol, 68.2 g | C(C)(=O)[O-].[NH4+]
reactant | cyclohexane | 230 mL | C1CCCCC1 | C6H12
reactant | ammonium acetate | 0.19 mol, 14.6 g | C(C)(=O)[O-].[NH4+]
reactant | ammonium hydroxide | 63 mL | [OH-].[NH4+]
reactant | isopropanol | 74 mL | C(C)(C)O | C3H8O
product | 3-Amino-4-methyl-2-pentenoic acid, ethyl ester | NC(=CC(=O)OCC)C(C)C | C8H15NO2
